US06939993B2
In a flask 316.1 g (1.1 mol) of valencene with a purity of 71% by weight, 22.28 g (0.14 mol) of N-hydroxyphthalimide, 6.97 g (0.028 mol) of cobalt(II) acetate tetrahydrate, 29.93 g (0.084 mol) of tris(acetylacetonato)cobalt(III), and 3230 g of acetonitrile were placed and were stirred at 40° C. at a pressure of 13 kgf/cm2 (=1.3 MPa) for 2 hours under flow of air at a rate of 150 L (under standard conditions) per hour. The resulting mixture was further treated with 22.84 g (0.14 mol) of N-hydroxyphthalimide with stirring at 40° C. for 2 hours. The reaction mixture was analyzed by gas chromatography and was found that a target compound nootkatone and nootkatol were produced in yields of 53.7% and 1.4%, respectively, with a conversion from valencene of 100%. The reaction mixture was further analyzed by high-performance liquid chromatography and was found to contain 4.4 g of N-hydroxyphthalimide, 0.7 g of phthalimide, and 18.8 g of tris(acetylacetonato)cobalt(III).

reactant | valencene | 1.1 mol, 316.1 g | C[C@@H]1CCC=C2[C@]1(C[C@@H](CC2)C(=C)C)C | C15H24
reactant | N-hydroxyphthalimide | 0.14 mol, 22.28 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | N-hydroxyphthalimide | 0.14 mol, 22.84 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | nootkatone | C[C@@H]1CC(=O)C=C2[C@]1(C[C@@H](CC2)C(=C)C)C | C15H22O
catalyst | cobalt(II) acetate tetrahydrate | 0.028 mol, 6.97 g | O.O.O.O.C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
catalyst | tris(acetylacetonato)cobalt(III) | 0.084 mol, 29.93 g | CC(=O)CC(=O)C.CC(=O)CC(=O)C.CC(=O)CC(=O)C.[Co]
solvent | acetonitrile | 3230 g | C(C)#N | C2H3N
product | nootkatol | C[C@@H]1C[C@@H](C=C2[C@]1(C[C@@H](CC2)C(=C)C)C)O | C15H24O
